US05534529
(R)-1-(2-{4-t-Butyl-3-[2-(9H-xanthen-9-yl)acetamido]phenyl}ethyl)-2-cyclohexylethyl Hydrogen Succinate (Compound No. 1-1109)
A solution of 337 mg (0.471 mmol) of (R)-1-(2-{4-t-butyl-3-[2-(9H-xanthen-9-yl)acetamido]phenyl}ethyl)-2-cyclohexylethyl benzyl succinate (prepared as described in Preparation 25) in 10 ml of ethyl acetate was vigorously stirred in a stream of hydrogen in the presence of 173 mg of 10% w/w palladium-on-charcoal. The reaction mixture was then filtered, and the catalyst was washed with ethyl acetate. The filtrate and the washings were combined, and the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through 15 g of silica gel, using a 1:19 by volume mixture of methanol and methylene chloride as the eluent, to give the title compound as a foam-like material.

reactant | (R)-1-(2-{4-t-butyl-3-[2-(9H-xanthen-9-yl)acetamido]phenyl}ethyl)-2-cyclohexylethyl benzyl succinate | 0.471 mmol, 337 mg | C(CCC(=O)OCC1=CC=CC=C1)(=O)O[C@@H](CC1CCCCC1)CCC1=CC(=C(C=C1)C(C)(C)C)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C46H53NO6
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | (R)-1-(2-{4-t-Butyl-3-[2-(9H-xanthen-9-yl)acetamido]phenyl}ethyl)-2-cyclohexylethyl Hydrogen Succinate | C(CCC(=O)O)(=O)O[C@@H](CC1CCCCC1)CCC1=CC(=C(C=C1)C(C)(C)C)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C39H47NO6
